US05958942
i) Synthesis of 4,5-dihydro-4-(1-pentafluoropropionylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one
In 10 ml of acetonitrile was suspended 687 mg (2.0 mM) of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride, followed by addition of 2.23 ml (16.0 mM) of triethylamine and 1.97 ml (10.0 mM) of pentafluoropropionic anhydride in the order mentioned. This mixture was stirred at room temperature for 1 hour and the solvent was then distilled off under reduced pressure. The residue was extracted with 50 ml of chloroform and the organic layer was washed with 50 ml of saturated aqueous NaCl solution and dried over MgSO4. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-ethanol=10:1) to provide 526 mg (yield 63.2%) of the title compound as light-yellow amorphous substance.

reactant | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 2.0 mM, 687 mg | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O
reactant | triethylamine | 16.0 mM, 2.23 ml | C(C)N(CC)CC | C6H15N
reactant | pentafluoropropionic anhydride | 10.0 mM, 1.97 ml | FC(C(C(=O)OC(C(C(F)(F)F)(F)F)=O)(F)F)(F)F | C6F10O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5-dihydro-4-(1-pentafluoropropionylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 526 mg, yield 63.2% | FC(C(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(C(F)(F)F)F | C18H17F5N4O2
